US04337256
5-Cyanomethylisoquinoline (4.9 g), 5.7 g of potassium cyanide and 200 mg of benzyl triethyl ammonium chloride were dissolved in 60 ml of dichloromethane and 12 ml of water. The solution was stirred for 30 minutes, and 8.2 g of benzoyl chloride was added dropwise. The mixture was further stirred for 4 hours. After the reaction, the dichloromethane layer was washed in water, and dried, followed by distilling off the solvent. The residue was recrystallized from ether to afford 4.5 g of 1-cyano-2-benzoyl-5-cyanomethyl-1,2-dihydroisoquinoline as colorless prisms having a melting point of 66.4° to 69.7° C.

reactant | 5-Cyanomethylisoquinoline | 4.9 g | C(#N)CC1=C2C=CN=CC2=CC=C1 | C11H8N2
reactant | potassium cyanide | 5.7 g | [C-]#N.[K+]
reactant | benzoyl chloride | 8.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | benzyl triethyl ammonium chloride | 200 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 12 ml | O | H2O
product | 1-cyano-2-benzoyl-5-cyanomethyl-1,2-dihydroisoquinoline | 4.5 g | C(#N)C1N(C=CC2=C(C=CC=C12)CC#N)C(C1=CC=CC=C1)=O | C19H13N3O
